US07098215B2
Synthesis of methyl 4-bromoethylbenzoate (Compound IV-2)
Commercially available 4-bromoethylbenzoic acid (997.9 mg) was dissolved in methanol (30 ml). After the addition of WSCI hydrochloride (1.2527 g) and HOBt (598.5 mg), the solution was stirred for 24 hours at 60° C. After the reaction, the solvent was removed by distillation. The residue was dissolved in chloroform, washed with 1 mol/l hydrochloric acid, 1 mol/l aqueous solution of sodium hydroxide, and saturated brine, and dried over anhydrous sodium sulfate. The solvent was removed by distillation and the residue was purified by silica gel column chromatography to obtain the title compound (829.5 mg) as a colorless solid.

reactant | 4-bromoethylbenzoic acid | 997.9 mg | BrCCC1=CC=C(C(=O)O)C=C1 | C9H9BrO2
reactant | WSCI hydrochloride | 1.2527 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 598.5 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | methanol | 30 ml | CO | CH4O
product | methyl 4-bromoethylbenzoate | 829.5 mg | BrCCC1=CC=C(C(=O)OC)C=C1 | C10H11BrO2
